* source APLICATION17
R_R1         N00251 N01189  1 TC=0,0 
R_R2         0 N00288  100k TC=0,0 
C_C1         0 N00288  100uF  TC=0,0 
X_TX1    N01189 0 N00258 N00262 SCHEMATIC1_TX1 
D_D1         N00258 N00288 D1N4148 
D_D2         N00262 N00288 D1N4148 
D_D3         0 N00262 D1N4148 
D_D4         0 N00258 D1N4148 
V_V1         N00251 0  AC 0
+SIN 0 311.1 60 0 0 0

.subckt SCHEMATIC1_TX1 1 2 3 4  
K_TX1         L1_TX1 L2_TX1 1
L1_TX1         1 2 100mH
L2_TX1         3 4 0.3mH
.ends SCHEMATIC1_TX1
