* source APLICATION3
I_I1         0 N00298 DC 3Adc  
R_R1         N00298 N00281  1 TC=0,0 
R_R2         N00281 N00277  2 TC=0,0 
R_R3         N00277 N00232  4 TC=0,0 
R_R4         N00281 N00232  3 TC=0,0 
R_R5         N00232 N00202  5 TC=0,0 
R_R6         N00232 N00202  6 TC=0,0 
R_R7         N00232 N00202  7 TC=0,0 
R_R8         N00202 0  8 TC=0,0 
