* source APPLICATION11
C_C1         N00345 N00297  100uF  TC=0,0 
L_L1         N00285 N00528  1mH  
V_V1         N00285 0  AC 311
+SIN 0 311 60 0 0 0
R_R2         N00528 N00297  10 TC=0,0 
R_R3         0 N00532  5 TC=0,0 
R_R4         N00532 N00528  10 TC=0,0 
L_L2         N00532 N00345  10mH  
