* source APPLICATION14
V_V1         N00288 0  
+SIN 0 50m 1000 0 0 0
R_R1         N00364 N00392  30k TC=0,0 
R_R2         N00340 N00392  10k TC=0,0 
R_R3         N00288 N00628  1k TC=0,0 
R_R4         N00333 0  100k TC=0,0 
R_R5         0 N00364  100k TC=0,0 
R_R6         0 N00360  5k TC=0,0 
C_C1         N00340 N00333  10uF  TC=0,0 
Q_Q1         N00340 N00364 N00360 Q2N3904
C_C2         N00628 N00364  10uF  TC=0,0 
V_V2         N00392 0 12Vdc
