* source APPLICATION16
R_R3         N01002 N01246  100k TC=0,0 
V_V2         N00868 0 12Vdc
Q_Q1         N00908 N01246 N01034 Q2N3904
R_R4         N00936 0  100k TC=0,0 
R_R2         N00908 N00868  10k TC=0,0 
C_C1         N00908 N00936  10uF  TC=0,0 
R_R6         0 N01034  0.1k TC=0,0 
V_V3         N01002 0  
+PULSE 0 5 0 0 0 1m 2m
