* source APPLICATION2
R_R1         N00288 N00296  1 TC=0,0 
V_V1         N00288 0 10Vdc
R_R2         0 N00296  {R} TC=0,0 
R_R3         N00487 N00495  10 TC=0,0 
R_R5         0 N00495  {RX} TC=0,0 
V_V2         N00487 0 10Vdc
R_R4         0 N00495  15 TC=0,0 
.PARAM  rx=10 r=5
