* source APPLICATION5
V_V1         N00156 0 10Vdc
R_R1         N00152 N00145  10 TC=0,0 
C_C1         0 N00145  17uF IC=0 TC=0,0 
X_U2         N00156 N00152 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
