* source APPLICATION7
V_V1         N00246 0 10Vdc
X_U2         N00246 N00253 Sw_tClose PARAMS: tClose=0.1m ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U3         0 N00257 Sw_tClose PARAMS: tClose=10.0m ttran=1u Rclosed=0.01
+  Ropen=1Meg
C_C1         N00257 N00226  1.7uF  TC=0,0 
L_L1         0 N00226  1.7mH  
X_U1         N00253 N00257 Sw_tOpen PARAMS: tOpen=10m ttran=1u Rclosed=0.01
+  Ropen=1Meg
