* source APPLICATION8
C_C1         N00684 N00500  1.7uF  TC=0,0 
X_U2         N00476 N00484 Sw_tClose PARAMS: tClose=0.1m ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U1         N00484 N00488 Sw_tOpen PARAMS: tOpen=10m ttran=1u Rclosed=0.01
+  Ropen=1Meg
L_L1         0 N00500  1.7mH  
V_V1         N00476 0 10Vdc
X_U3         0 N00488 Sw_tClose PARAMS: tClose=10.0m ttran=1u Rclosed=0.01
+  Ropen=1Meg
R_R1         N00488 N00684  1 TC=0,0 
