* source BASIC1
V_V1         N00137 0 10Vdc
R_R1         N00137 N00144  1k TC=0,0 
R_R2         N00144 0  1k TC=0,0 
R_R3         N00144 0  1k TC=0,0 
