* source BASIC2
R_R1         N00329 N00339  1k TC=0,0 
V_V1         N00329 0 20Vdc
R_R3         N00339 0  1k TC=0,0 
R_R2         N00339 0  1k TC=0,0 
