* source BASIC3
R_R1         N00569 N00579  1k TC=0,0 
R_R2         N00579 0  1k TC=0,0 
V_V1         N00569 0 DC 0Vdc AC 10Vac 
C_C1         0 N00579  1n  TC=0,0 
