* source BASIC4
C_C1         0 N01061  1n  TC=0,0 
R_R1         N01051 N01061  1k TC=0,0 
R_R2         N01061 0  1k TC=0,0 
V_V1         N01051 0  AC 1
+SIN 0 1 1k 0 0 0
