* source BASIC5
R_R1         N01353 N01363  1k TC=0,0 
V_V1         N01353 0  AC 1
+SIN 0 1 1k 0 0 0
R_R2         N01363 0  1k TC=0,0 
C_C1         0 N01363  1n  TC=0,0 
